US08865704B2
3-[trans-4-(4-pyridin-2-yl-piperazine-1-carbonyl)-cyclohexylmethyl]-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
To a suspension of trans-4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexanecarboxylic acid (52 mg, 0.17 mmol) in dry DCM (2 mL) was added CDI (50 mg, 0.31 mmol). The resulting mixture was stirred at room temperature for 2 h, then 1-Pyridin-2-yl-piperazine (44 μL, 0.56 mmol) was added. The reaction mixture was stirred at room temperature for 1.5 h. Then solvent was removed under reduced pressure and crude was purified by crystallization from acetonitrile.

reactant | trans-4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexanecarboxylic acid | 0.17 mmol, 52 mg | O=C1N(CCC2=C(N1)C=CC=C2)C[C@@H]2CC[C@H](CC2)C(=O)O | C17H22N2O3
reactant | CDI | 0.31 mmol, 50 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-Pyridin-2-yl-piperazine | 0.56 mmol, 44 μL | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[trans-4-(4-pyridin-2-yl-piperazine-1-carbonyl)-cyclohexylmethyl]-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | N1=C(C=CC=C1)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=C(CC1)C=CC=C2)=O | C26H33N5O2
